US07456176B2
Synthesis of 1-[2-(3-bromo-phenoxy)-ethyl]-pyrrolidine
3-bromo-phenol (5.34 g, 30.9 mmol, 1 equiv), 1-(2-chloro-ethyl)-pyrrolidine (5.24 g, 30.9 mmol, 1 equiv) and potassium carbonate (K2CO3) (34 g, 24.7 mmol, 8 equiv) were weighed out into a 500 mL round bottom flask, were diluted with 150 mL DMF and stirred for 2 days. The contents were poured onto ethyl acetate water mixture and extracted once. The organic layer was separated, washed with brine and dried over sodium sulfate (Na2SO4). Filtration followed by concentration provided crude product as a pale yellow oil. Column chromatography (1:9 ethyl acetate/hexanes) provided desired product as a yellow oil (3.6 g, 43% yield). 1H NMR (DMSO-d6): δ 1.65-1.69 (m, 4H), 2.72 (s, 1H), 2.75 (t, J=5.8 Hz, 2H), 2.88 (s, 1H), 4.06 (t, J=5.8 Hz, 2H), 6.95 (dd, J=8.35 Hz, 1H), 7.11 (d, J=7.7, 1H), 7.13-7.14 (m, 1H), 7.22 (t, J=8.1 Hz, 1H).

reactant | 3-bromo-phenol | 30.9 mmol, 5.34 g, 1 equiv | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | 1-(2-chloro-ethyl)-pyrrolidine | 30.9 mmol, 5.24 g, 1 equiv | ClCCN1CCCC1 | C6H12ClN
reactant | potassium carbonate | 24.7 mmol, 34 g, 8 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 1-[2-(3-bromo-phenoxy)-ethyl]-pyrrolidine | 3.6 g, 43% yield | BrC=1C=C(OCCN2CCCC2)C=CC1 | C12H16BrNO
